* the near-miss report for an 'unlet' that misses a vector only by case
* doc/codex/issues/0027, second half.  Making vec_remove() exact turned a
* silent wrong removal into a silent no-op, so 'unlet' now reports a miss that
* a case variant would have matched, and 'compose' and 'cross' -- which define
* the name they pass rather than resolving it -- stay silent.  Decision 2 of
* doc/claude/decisions/0001-distinguish.md is the rule, and the definition
* half of it is the one a diagnostic gets wrong: a warning there would fire on
* the legitimate deck, because two spellings being two vectors is the feature.
*
* The diagnostic goes to cp_err, which tests/bin/check.sh does not capture, so
* this deck redirects it.  '>&' sets cp_err as well as cp_out to the named file
* (src/frontend/streams.c:153), and the capture is read back with
* fopen/fread/strstr and reduced to one token on stdout, which is the shape
* tests/regression/pipe/shell-keyword-case.cmd:79 already uses to assert on
* output it has to read off disk.  Each variable is preseeded, so a capture
* that is empty -- the silent cases -- leaves the seed in place and cannot be
* mistaken for a read line.  Every token is upper case because check.sh's
* filter drops any line containing 'Warning' or 'Error'.
*
* Out and OUT are two nets, 1.5 * 1k / (1k + 1k) = 7.500000e-01 and
* 1.5 * 3k / (1k + 3k) = 1.125000e+00, and both must survive all four
* commands: the two prints at the end are what says so.
.OPTIONS noacct
V1 in 0 dc 1.5
R1 in Out 1k
R2 Out 0 1k
R3 in OUT 1k
R4 OUT 0 3k
.control
op
set cap1 = "no_line_read"
set cap2 = "no_line_read"
set cap3 = "no_line_read"
set cap4 = "no_line_read"
* a resolution that misses only by case: reported
unlet oUt >& vuc_unlet_miss.txt
fopen f1 vuc_unlet_miss.txt r
fread cap1 $f1 n1
fclose $f1
strstr p1 "_$cap1" "differs only in case"
if $p1 < 0
  echo UNLET-MISS-SILENT
else
  echo UNLET-MISS-REPORTED
end
* a resolution that misses with no case variant present: silent, and it is
* doc/codex/issues/0028's class rather than this one
unlet nosuchvector >& vuc_unlet_notwin.txt
fopen f2 vuc_unlet_notwin.txt r
fread cap2 $f2 n2
fclose $f2
strstr p2 "_$cap2" "differs only in case"
if $p2 < 0
  echo NO-TWIN-SILENT
else
  echo NO-TWIN-REPORTED
end
* a definition, not a resolution: silent
compose oUt values 2 >& vuc_compose.txt
fopen f3 vuc_compose.txt r
fread cap3 $f3 n3
fclose $f3
strstr p3 "_$cap3" "differs only in case"
if $p3 < 0
  echo COMPOSE-SILENT
else
  echo COMPOSE-REPORTED
end
* also a definition
cross OuT 0 in >& vuc_cross.txt
fopen f4 vuc_cross.txt r
fread cap4 $f4 n4
fclose $f4
strstr p4 "_$cap4" "differs only in case"
if $p4 < 0
  echo CROSS-SILENT
else
  echo CROSS-REPORTED
end
print v(Out)
print v(OUT)
.endc
.end
